US07223772B1
2-[({4-[2-(3-Fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]phenyl}sulfonyl)amino]-2-oxoethyl acetate
By using 4-[2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide (0.15 g 0.35 mmol), diisopropylethylamine (Aldrich) (150 μl ), 4-dimethylaminopyridine (0.04 g 0.32 mmol) and acetoxyacetyl chloride (Aldrich) (0.109 g 0.8 mmol), the title compound was obtained in the manner of Example 19 as a white solid (0.14 g 75%).

reactant | 4-[2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide | 0.35 mmol, 0.15 g | FC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=CC=C(C=C1)S(=O)(=O)N | C20H13F4N3O2S
reactant | acetoxyacetyl chloride | 0.8 mmol, 0.109 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
catalyst | 4-dimethylaminopyridine | 0.32 mmol, 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diisopropylethylamine | 150 μl | C(C)(C)N(CC)C(C)C | C8H19N
product | 2-[({4-[2-(3-Fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]phenyl}sulfonyl)amino]-2-oxoethyl acetate | C(C)(=O)OCC(=O)NS(=O)(=O)C1=CC=C(C=C1)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2)F | C24H17F4N3O5S
